US06004959
1-Bromo-2-methoxy-4-(1-methylethoxy)benzene
To a stirred suspension of 4-bromo-3-methoxyphenol (2.03 g, 10 mmol) and K2CO3 (1.38 g, 10 mmol) in 2-butanone (70 mL) at ambient temperature under argon is added dropwise isopropyl iodide (2.21 g, 13.3 mmol). The resulting mixture is heated and stirred under reflux for 17 hours. The mixture is allowed to cool to ambient temperature then is filtered and concentrated by evaporation of the solvent. The residue is partitioned between Et2O and H2O. The Et2O layer is extracted with 5% NaOH (2×50 mL), washed with brine, and dried over MgSO4. The solvent is evaporated and the resulting residue is purified by flash chromatography (5% EtOAc/hexane) to afford the desired compound as a pale yellow oil. 2.13 g (87%).

reactant | 4-bromo-3-methoxyphenol | 10 mmol, 2.03 g | BrC1=C(C=C(C=C1)O)OC | C7H7BrO2
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isopropyl iodide | 13.3 mmol, 2.21 g | C(C)(C)I | C3H7I
solvent | 2-butanone | 70 mL | CC(CC)=O | C4H8O
product | 1-Bromo-2-methoxy-4-(1-methylethoxy)benzene | BrC1=C(C=C(C=C1)OC(C)C)OC | C10H13BrO2
